US07816391B2
2M aqueous sodium hydroxide (1.671 mL, 3.34 mmol) was added in one portion to methyl 4-[4-(2-adamantylcarbamoyl)-5-cyclohexylsulfanyl-pyrazol-1-yl]benzoate (Intermediate#84) (330 mg, 0.67 mmol) in methanol (10 mL). The resulting mixture was stirred at 20° C. for 18 hours. The reaction mixture was concentrated and diluted with water (50 mL), and washed with ether (20 mL). The aqueous solution was adjusted to pH 3 with 2M HCl and extracted with EtOAc (2×25 mL), and the combined extracts washed sequentially with water (2×20 mL) and saturated brine (20 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford 4-[4-(2-adamantylcarbamoyl)-5-cyclohexylsulfanyl-pyrazol-1-yl]benzoic acid (321 mg, 100%).

reactant | sodium hydroxide | 3.34 mmol, 2M, 1.671 mL | [OH-].[Na+]
reactant | methyl 4-[4-(2-adamantylcarbamoyl)-5-cyclohexylsulfanyl-pyrazol-1-yl]benzoate | 0.67 mmol, 330 mg | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2SC2CCCCC2)C2=CC=C(C(=O)OC)C=C2 | C28H35N3O3S
solvent | methanol | 10 mL | CO | CH4O
product | 4-[4-(2-adamantylcarbamoyl)-5-cyclohexylsulfanyl-pyrazol-1-yl]benzoic acid | 321 mg, 100% | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2SC2CCCCC2)C2=CC=C(C(=O)O)C=C2 | C27H33N3O3S
